data/mechanism_extracts/NatCommun/10.1038_s41467-022-32084-8.json
{"doi": "10.1038_s41467-022-32084-8", "journal": "NatCommun", "is_review": false, "rxn_class_summary": "Electro-oxidative intermolecular 1,2-amino oxygenation of alkenes using sulfonamides and alcohols/acids as N and O sources via nitrogen-centered radicals, with H2 evolution at the cathode.", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "paired_electrolysis", "anion_initiated"], "electrochemical_role": "Anodic oxidation of the deprotonated sulfonamide (N-anion, generated by DBU) to an N-centered radical (NCR); cathodic reduction of protons to evolve H2. DBU appears electroactive and may shuttle electrons (oxidized DBU oxidizes the sulfonamide).", "key_intermediates": [{"name": "Sulfonamide N-anion (I) after deprotonation by DBU", "smiles": "[N-](C)S(=O)(=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "N-centered radical (NCR, II) from anodic oxidation", "smiles": "[N](C)S(=O)(=O)c1ccc(C)cc1", "role": "reactive"}, {"name": "C-centered benzylic radical (III) from NCR addition to styrene", "smiles": "O=S(=O)(c1ccc(C)cc1)N(C)CC([CH])c1ccccc1", "role": "transient"}, {"name": "Benzylic carbocation (IV) from further anodic oxidation", "smiles": "O=S(=O)(c1ccc(C)cc1)N(C)CC([CH+])c1ccccc1", "role": "reactive"}, {"name": "β-amino oxygenation product (e.g., 4a with OCH2CF3)", "smiles": "O=S(=O)(c1ccc(C)cc1)N(C)CC(OCC(F)(F)F)c1ccccc1", "role": "transient"}], "electron_flow": "DBU deprotonates the sulfonamide; the resulting N-anion (or a DBU/sulfonamide complex) is oxidized at the anode to an N-centered radical, which adds anti-Markovnikov to the alkene to give a benzylic C-radical. A second anodic oxidation converts the C-radical to a benzylic cation, which is trapped by the alcohol/carboxylate nucleophile with loss of a proton; cathode reduces 2H+ to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "N-methyl-N-pentyl tosylamide (10) competition substrate", "smiles": "CCCCCN(C)S(=O)(=O)c1ccc(C)cc1", "purpose": "intermediate_trap", "observation": "Under standard conditions with styrene, gave both intermolecular 1,2-amino oxygenation product 10a (15%) and intramolecular Hofmann–Löffler–Freytag cyclization product 10b (41%), supporting an N-centered radical intermediate."}, {"name": "α-cyclopropylstyrene (11) radical clock", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Ring-opened adduct 11a (14%) was formed alongside non-opened 11b (6%), supporting radical addition of NCR to the alkene."}, {"name": "Cyclic voltammetry of 1a, DBU, 2aa and mixtures", "smiles": null, "purpose": "redox_probe", "observation": "1a shows no oxidation peak up to 2.5 V; DBU catalytic current increases with added 1a, indicating DBU is electroactive and mediates oxidation of 1a; styrene 2aa is electro-redox active but EDG-styrenes give low yields, so direct alkene oxidation is not the initial step."}, {"name": "NMR titration of 1a with DBU", "smiles": null, "purpose": "other", "observation": "NMR supports rapid proton transfer between 1a and DBU prior to electrolysis."}, {"name": "Current on/off control", "smiles": null, "purpose": "other", "observation": "No product formed without current, confirming electrochemistry is required."}], "evidence_types_used": ["radical_clock", "intermediate_trap_other", "cyclic_voltammetry", "on/off_light_or_current", "isolation_of_intermediate"], "evidence_strength": "strong", "notes": "Authors note an alternative pathway cannot be ruled out in which the 1a/DBU mixture is directly oxidized at the anode to generate the NCR (rather than discrete deprotonation then oxidation of the N-anion). Styrenes with strong electron-donating groups give low yields, consistent with the NCR-addition pathway rather than direct alkene oxidation. HFIP/TFE-type fluorinated alcohol solvents are critical for NCR lifetime; DBU base is essential for high yields."}
